US07005432B2
5-(4-Methoxy-naphthalen-1-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=331.3 (M+H+), was prepared from 2-(4-methoxy-naphthalen-1-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-(4-methoxy-naphthalen-1-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | COC1=CC=C(C2=CC=CC=C12)B1OC(C(O1)(C)C)(C)C | C17H21BO3
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(4-Methoxy-naphthalen-1-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.COC1=CC=C(C2=CC=CC=C12)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C20H18N4O.ClH/c1-14-21-9-10-24(14)13-16-11-15(12-22-23-16)17-7-8-20(25-2)19-6-4-3-5-18(17)19;/h3-12H,13H2,1-2H3;1H
